### PR TITLE
Stepwise oracles

### PR DESCRIPTION
**Pull request by bmmoore**
Adjust the definitions of HasBeenSentCapability and HasBeenReceivedCapability so the class directly uses the stepwise oracle correctness properties. The trace-based correctness properties for `has_been_sent` and `has_been_received` are  still available but now defined as lemmas rather then directly being class members.

### CODE REVIEW

File: theories/VLSM/Core/Equivocation.v [hunk 1]
```diff
@@ -362,6 +369,151 @@ Definition no_traces_have_message_prop
...
+  (oracle : state_message_oracle)
+  : Prop :=
+{
+  oracle_no_inits :
+    forall (s : vstate vlsm),
+      initial_state_prop (VLSMMachine := vmachine vlsm) s ->
+      forall m, ~ oracle s m;
+  oracle_step_update :
+    forall l s im s' om,
+      input_valid_transition (pre_loaded_with_all_messages_vlsm vlsm) l (s, im) (s', om) ->
```
Comment (traiansf) [inline theories/VLSM/Core/Equivocation.v:417]: I wonder whether it would make sense to use here `input_valid_transition_item`

File: theories/VLSM/Core/Equivocation.v [hunk 2]
```diff
@@ -362,6 +369,151 @@ Definition no_traces_have_message_prop
...
+  constructor; [done |].
+  by intros; rewrite Hupdate, Heqv.
+Qed.
+
+Lemma oracle_trace_props_from_stepwise
+  `(Horacle: oracle_stepwise_props selector oracle) :
+  oracle_tracewise_props selector oracle.
+Proof.
+  constructor; intros s Hs m.
+  - with_strategy opaque [iff] hnf.
```
Comment (traiansf) [inline theories/VLSM/Core/Equivocation.v:488]: I haven't seen this tactic before in our codebase. Is there a specific reason to start using it?

File: theories/VLSM/Core/Equivocation.v [hunk 3]
```diff
@@ -931,7 +1058,7 @@ Defined.
 
 End sec_stepwise_from_trace.
 
-(** ** Stepwise view of [HasBeenSentCapability]
+(** ** Stepwise view of [HasBeenSentCapability] TODO - move up with HasBeenSent
```
Comment (traiansf) [inline theories/VLSM/Core/Equivocation.v:1061]: Is it OK to have a TODO in a coqdoc header, even title?

File: theories/VLSM/Core/Equivocation.v [hunk 4]
```diff
@@ -945,44 +1072,15 @@ End sec_stepwise_from_trace.
...
-Defined.
-
 Lemma preloaded_has_been_sent_stepwise_props
       [message : Type]
       (vlsm: VLSM message)
       `{HasBeenSentCapability message vlsm}
       (seed : message -> Prop)
       (X := pre_loaded_vlsm vlsm seed):
-  has_been_sent_stepwise_props (vlsm := X) (has_been_sent vlsm).
+  has_been_sent_stepwise_prop (vlsm:=X) (has_been_sent vlsm).
```
Comment (traiansf) [inline theories/VLSM/Core/Equivocation.v:1081]: spaces around `:=`

File: theories/VLSM/Core/Equivocation.v [hunk 5]
```diff
@@ -1860,11 +1860,11 @@ Lemma preloaded_composite_has_been_received_stepwise_props
   (constraint : composite_label IM -> composite_state IM * option message -> Prop)
   (seed : message -> Prop)
   (X := pre_loaded_vlsm (composite_vlsm IM constraint) seed)
-  : has_been_received_stepwise_props (vlsm := X) composite_has_been_received.
+  : has_been_received_stepwise_prop (vlsm:=X) composite_has_been_received.
```
Comment (traiansf) [inline theories/VLSM/Core/Equivocation.v:1863]: spaces around `:=`

**Review by traiansf — APPROVED** [review]
looks reasonable to me.

File: theories/VLSM/Core/ELMO/UMO.v [hunk 6]
```diff
@@ -108,7 +108,7 @@ Qed.
 Instance HasBeenSentCapability_UMOComponent
   (i : Address) : HasBeenSentCapability (UMOComponent i).
 Proof.
-  eapply HasBeenSentCapability_from_stepwise with (fun s m => m ∈ sentMessages s)
+  apply Build_HasBeenSentCapability with (fun s m => m ∈ sentMessages s)
```
Comment (palmskog) [inline theories/VLSM/Core/ELMO/UMO.v:111]: It's a bit unfortunate that we have to explicitly reference the constructor names here and just below - this is typically not considered good practice. However, there might be no obvious better thing to do here.

File: theories/VLSM/Core/Equivocation.v [hunk 7]
```diff
@@ -333,15 +336,19 @@ Proof.
...
 (**
-  Checks if all [valid_trace]s leading to a certain state contain a certain message.
-  The [message_selector] argument specifies whether we're looking for received or sent
-  messages.
+  The oracle should check if all valid traces leading to the state contains certain message.
+  The [message_selector] argument checks whether a single transition contains the
+  message, and can be used to check for received messages or sent messages.
 
-  Notably, the [valid_trace]s over which we are iterating belong to the preloaded
+  Notably, the traces we are considering are any valid in the preloaded
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocation.v:343]: A bit more clear:
```suggestion
  Notably, the traces we are considering are any traces valid in the preloaded
```

File: theories/VLSM/Core/Equivocation.v [hunk 8]
```diff
@@ -362,6 +369,151 @@ Definition no_traces_have_message_prop
...
+          forall m, selector m item <-> selector' m item)
+      : oracle_stepwise_props selector' oracle.
+Proof.
+  destruct Horacle as [Hinits Hupdate].
+  constructor; [done |].
+  by intros; rewrite Hupdate, Heqv.
+Qed.
+
+Lemma oracle_trace_props_from_stepwise
+  `(Horacle: oracle_stepwise_props selector oracle) :
```
Comment (palmskog) [inline theories/VLSM/Core/Equivocation.v:484]: I guess @wkolowski can see to this, but this way of handling variables with the backtick is inconsistent with what we have just above.

File: theories/VLSM/Core/Equivocation.v (hunk 3 above)
Comment (palmskog) [reply theories/VLSM/Core/Equivocation.v:1061]: @bmmoore please make the TODO a separate, standalone non-coqdoc comment, like this:
```coq
(* TODO: move up with HasBeenSent *)
```

**Review by palmskog — APPROVED** [review]
Looks reasonable to me, but please consider the comments before merging.

File: theories/VLSM/Core/Equivocation.v [hunk 9]
```diff
@@ -362,6 +369,151 @@ Definition no_traces_have_message_prop
...
+    split.
+    + intros Hholds s0 tr Htr.
+      by eapply (oracle_initial_trace_update Horacle).
+    + apply pre_loaded_with_all_messages_valid_state_prop,
+        valid_state_has_trace in Hs as (start & tr & Htr).
+      intro H; specialize (H start tr Htr).
+      by eapply oracle_initial_trace_update.
+  - with_strategy opaque [iff] hnf.
+    unfold not_oracle.
+    hnf_in selected_message_exists_in_no_preloaded_trace; simpl.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:499]:
```suggestion
  - red; unfold not_oracle, selected_message_exists_in_no_preloaded_trace,
      specialized_selected_message_exists_in_no_trace.
```

File: theories/VLSM/Core/Equivocation.v [hunk 10]
```diff
@@ -388,25 +540,61 @@ Definition has_not_been_received_prop : state_message_oracle -> state -> message
...
+  := oracle_step_update _ _ has_been_sent_stepwise_props.
+
+Definition has_been_sent_tracewise_prop
+      (has_been_sent_pred : state_message_oracle) : Prop :=
+  oracle_tracewise_props (field_selector output) has_been_sent_pred.
+
+Lemma has_been_sent_tracewise_props `{HasBeenSentCapability} :
+  has_been_sent_tracewise_prop has_been_sent.
+Proof.
+  by exact (oracle_trace_props_from_stepwise has_been_sent_stepwise_props).
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:578]: I think we should use `apply` instead of `exact`.

```suggestion
  by apply oracle_trace_props_from_stepwise, has_been_sent_stepwise_props.
```

File: theories/VLSM/Core/Equivocation.v [hunk 11]
```diff
@@ -434,6 +622,7 @@ Lemma has_been_sent_consistency
   : selected_messages_consistency_prop (field_selector output) s m.
 Proof.
   split; [| by apply consistency_from_valid_state_proj2].
+  pose proof has_been_sent_tracewise_props.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:625]: What's the point of adding this line?

```suggestion
```

File: theories/VLSM/Core/Equivocation.v [hunk 12]
```diff
@@ -640,118 +866,31 @@ Qed.
 
 End sec_simple.
 
-#[global] Hint Mode HasBeenSentCapability - ! : typeclass_instances.
-#[global] Hint Mode HasBeenReceivedCapability - ! : typeclass_instances.
+Arguments oracle_stepwise_props {message} {vlsm} message_selector oracle.
+Arguments oracle_no_inits {message} {vlsm} {message_selector} {oracle}.
+Arguments oracle_step_update {message} {vlsm} {message_selector} {oracle}.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:871]: I like aligning `Arguments`, as it makes it easier to compare across definitions.

```suggestion
Arguments oracle_stepwise_props {message} {vlsm} message_selector oracle.
Arguments oracle_no_inits       {message} {vlsm} {message_selector} {oracle}.
Arguments oracle_step_update    {message} {vlsm} {message_selector} {oracle}.
```

File: theories/VLSM/Core/Equivocation.v [hunk 13]
```diff
@@ -1242,30 +1287,16 @@ Lemma has_been_directly_observed_sent_received_iff
...
-      by exists is, tr, Htr.
-  - intros [Hreceived | Hsent]; apply Hall; intros is tr Htr.
-    + apply proper_received in Hreceived; [| done].
-      apply Exists_or. left.
-      by eapply Hreceived.
-    + apply proper_sent in Hsent; [| done].
-      apply Exists_or. right.
-      by eapply Hsent.
+  revert m.
+  induction Hs using valid_state_prop_ind; intro m.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:1291]: Apparently, the `revert` is not needed.

File: theories/VLSM/Core/Equivocation.v [hunk 14]
```diff
@@ -1242,30 +1287,16 @@ Lemma has_been_directly_observed_sent_received_iff
...
+  - split.
+    + by intros ?%has_been_directly_observed_no_inits.
+    + by intros [?%has_been_received_no_inits | ?%has_been_sent_no_inits].
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:1294]: My guess is that @palmskog won't like this one.

File: theories/VLSM/Core/Equivocation.v [hunk 15]
```diff
@@ -1441,7 +1441,7 @@ Definition ComputableSentMessages_has_been_sent
   `{EqDecision message}
   : HasBeenSentCapability vlsm.
 Proof.
-  eapply HasBeenSentCapability_from_stepwise; cycle 1.
+  econstructor; cycle 1.
   - by apply csm_computable_oracle.
   - by typeclasses eauto.
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:1446]: @bmmoore @palmskog @traiansf I wonder: maybe we should prefer chaining over `cycle`, like in the suggestion?

```suggestion
  econstructor; [| by apply csm_computable_oracle].
  by typeclasses eauto.
```

File: theories/VLSM/Core/Equivocation.v [hunk 16]
```diff
@@ -1778,12 +1778,11 @@ Qed.
...
   (X := composite_vlsm IM constraint)
-  : has_been_sent_stepwise_props (vlsm := X) composite_has_been_sent.
+  : has_been_sent_stepwise_prop (vlsm := X) composite_has_been_sent.
 Proof.
   unfold has_been_sent_stepwise_props.
   pose proof (composite_stepwise_props
-                (fun i => has_been_sent_stepwise_from_trace
-                            (IM i)))
+                (fun i => has_been_sent_stepwise_props (IM i)))
        as [Hinits Hstep].
```
Comment (wkolowski) [inline theories/VLSM/Core/Equivocation.v:1786]: @bmmoore @palmskog @traiansf This is a very interesting case, because `pose proof ... as [Hinits Hstep]` works just fine, but `destruct ... as [Hinits Hstep]` doesn't. Any body knows why?

**Review by wkolowski — APPROVED** [review]
Looks ok. I opened a PR with suggestions (it also contains the various minor suggestions by Traian and Karl): #150

File: theories/VLSM/Core/Equivocation.v [hunk 17]
```diff
@@ -362,6 +369,151 @@ Definition no_traces_have_message_prop
...
+*)
+
+Record oracle_stepwise_props
+  (message_selector : message -> transition_item -> Prop)
+  (oracle : state_message_oracle)
+  : Prop :=
+{
+  oracle_no_inits :
+    forall (s : vstate vlsm),
+      initial_state_prop (VLSMMachine := vmachine vlsm) s ->
```
[the remark this answers is not in the document]
Comment (bmmoore) [reply theories/VLSM/Core/Equivocation.v:413]: I was keeping this from old code, but I think it probably doesn't actually help. The idea is to help unification. We have a reasonable amount of code that writes `initial_state_prop` instead of using `vinitial_state_prop` (especially in the early sections defining or just after defining a new VLSM), and that ends up inferred as something like `initial_state_prop (VLSM_machine:=composite_vlsm_machine ...)`. The idea was it might be easier to unify that against `initial_state_prop (VLSMMachine := ?vmachine) ?s` than against `vinitial_state_prop ?vlsm ?s`. But I think the argument actually being written `vmachine vlsm` means this unification problem is also not solved so automatically. (I think turning on an eta rule with "Primitive Projections" would let `vmachine ?vlsm` unify with a concrete machine, but eta would also let `vinitial_state_prop ?vlsm` unify against `initial_state_prop (VLSMMachine:=?machine)`).

File: theories/VLSM/Core/Equivocation.v (hunk 1 above)
Comment (bmmoore) [reply theories/VLSM/Core/Equivocation.v:417]: Perhaps. I thought we were using more components of the transition item, but it's actually just s', so maybe a `destination item` in the conclusion wouldn't be too heavy. 

The other issue is that we often have `input_valid_transition` hypotheses, so we would want to have a version of the property with this type anyway. So I think we should leave this one alone, and maybe add the `input_valid_transition_item` form as a lemma if it looks useful.

File: theories/VLSM/Core/Equivocation.v (hunk 2 above)
Comment (bmmoore) [reply theories/VLSM/Core/Equivocation.v:488]: I resorted to `with_strategy` because `hnf` doesn't take the usual "delta flags" form to tell an evaluation rule not to unfold something, like in `cbv -[iff]`.

File: theories/VLSM/Core/ELMO/UMO.v (hunk 6 above)
Comment (bmmoore) [reply theories/VLSM/Core/ELMO/UMO.v:111]: It's unfortunate we couldn't use record construction syntax. I tried `{| |}` in many of these places, and had much typechecking trouble. In particular it seems it tries to typecheck the fields without using any context from looking at the expected type of the record, and `apply` on the constructor does. And `constructor` doesn't seem to have any way to pass your implementation of `has_been_sent`. I think `unshelve econstructor;[by exact (fun s m => m ∈ sentMessages s)|..].` could work, but by that point you might as well just write the constructor name.

File: theories/VLSM/Core/Equivocation.v (hunk 16 above)
Comment (bmmoore) [reply theories/VLSM/Core/Equivocation.v:1786]: Because `pose` allows the result to have existential variables, and the constraint isn't fixed until we use the new hypotheses. `edestruct ... as [Hints Hstep]` works.

Comment (bmmoore) [reply theories/VLSM/Core/Equivocation.v:1786]: I don't know why it doesn't require `epose`

File: theories/VLSM/Core/Equivocation.v [hunk 18]
```diff
@@ -208,6 +208,9 @@ Qed.
 Definition state_message_oracle
   := vstate vlsm -> message -> Prop.
 
+Definition not_oracle (o : state_message_oracle) : state_message_oracle :=
```
[the remark this answers is not in the document]
Comment (bmmoore) [reply theories/VLSM/Core/Equivocation.v]: I went with `negate_oracle`
